US05792769
b) 2-Chlorobenzenesulfonic acid 3-[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-4-benzylphenyl ester
To 294 mg (0.787 mmol) of 2-chlorobenzenesulfonic acid 3-hydroxy-4-benzylphenyl ester, as prepared in the preceding step, in tetrahydrofuran (5 mL) containing 236 μL (1.10 mmol) of N-tert-butoxycarbonyl-4-piperidinemethanol, as prepared in step f of Example 1, 300 μL (2.72 mmol) of N-methylmorpholine, and 309 mg (1.18 mmol) of triphenylphosphine was added 185 μL (1.18 mmol) of diethyl azodicarboxylate. The reaction mixture was stirred at ambient temperature for 1 h, quenched with saturated NaHCO3, and extracted into ether. The organic phase was dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography (ethyl acetate/hexane (1:2)) gave 382 mg of the title compound as a colorless foam. 1H-NMR (300 MHz, CDCl3) δ 7.95 (dd, 1H, J=1.5, 8 Hz), 7.55-7.64 (m, 2H), 7.35-7.40 (m, 1H), 7.08-7.26 (m, 5H), 6.93 (d, 2H, J=8 Hz), 6.65 (d, 2 Hz), 6.53 (dd, 1H, J=2, 8 Hz), 3.87 (s, 2H), 3.67 (d, 2H, 6 Hz), 2.69 (t, 2H, J=13 Hz), and 1.47 (s, 9H). Mass spectrum (MALDI-TOF; gentisic acid matrix) calcd. for C30H34ClNO6S: 594.2 (M+Na). Found: 594.0, 472.0 (M - (tert-butoxycarbonyl)+H).

reactant | 2-chlorobenzenesulfonic acid 3-hydroxy-4-benzylphenyl ester | 0.787 mmol, 294 mg | OC=1C=C(C=CC1CC1=CC=CC=C1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C19H15ClO4S
reactant | N-tert-butoxycarbonyl-4-piperidinemethanol | 1.10 mmol, 236 μL | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | N-methylmorpholine | 2.72 mmol, 300 μL | CN1CCOCC1 | C5H11NO
reactant | triphenylphosphine | 1.18 mmol, 309 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.18 mmol, 185 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic acid 3-[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-4-benzylphenyl ester | 382 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=CC1CC1=CC=CC=C1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C30H34ClNO6S
